US05387585
3. 63.5 g of 4-chloro-2-(chloromethyl)-6-methylquinazoline are dissolved in 630 ml of absolute tetrahydrofuran at room temperature and then cooled to 10° C. 27.2 ml of hydrazine hydrate are added dropwise thereto within 8 min., whereby a solution results and the temperature rises to 15° C. The reaction mixture is stirred at 5° to 15° C. for 4 h. and then poured into a solution of 40 g of sodium hydrogen carbonate in 5 l of water. The mixture is extracted five times with 1.5 l of dichloromethane each time. The combined organic phases are washed with water, dried and concentrated (T<40° C.) in a vacuum to a volume of 0.5 l. 0.5 l of ethyl acetate is added thereto and the dichloromethane is evaporated completely in a vacuum, whereby the product crystallizes out. The mixture is left to stand at -25° C. overnight and the crystals are filtered off, washed with diethyl ether and dried at room temperature in a vacuum. There are obtained 38 g of 2-(chloromethyl)-4-hydrazino-6-methylquinazoline of m.p. above 140° C. (dec.).

reactant | 4-chloro-2-(chloromethyl)-6-methylquinazoline | 63.5 g | ClC1=NC(=NC2=CC=C(C=C12)C)CCl | C10H8Cl2N2
reactant | hydrazine hydrate | 27.2 ml | O.NN
reactant | sodium hydrogen carbonate | 40 g | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 630 ml | O1CCCC1 | C4H8O
solvent | water | 5 l | O | H2O
product | 2-(chloromethyl)-4-hydrazino-6-methylquinazoline | 38 g | ClCC1=NC2=CC=C(C=C2C(=N1)NN)C | C10H11ClN4
